US06927221B2
6-Mesityl-1,3,4,7-tetramethyl-2,3-dihydro-1H-pyrazolo[5,1-b]purin-2-one
Hydrazine monohydrate (5 mL) was added to a solution of ethyl 7-amino-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-carboxylate (809 mg, 2.30 mmol) in ethanol (30 mL), followed by heating under reflux for eight hours. The reaction mixture was evaporated as it was, to give a crude compound. A 10% aqueous solution of hydrogen chloride was added to a solution of the crude compound in ethanol (25 mL) under ice-cooling, and a solution of sodium nitrite (177 mg, 2.53 mmol) in water (10 mL) was gradually added dropwise. After one hour, a temperature was raised to room temperature and the mixture was stirred for 1five hours. The reaction mixture was evaporated as it was, water was added, and the resulting solid was dried, to give a crude compound (571 mg). Sodium hydride (27 mg, 0.66 mmol) was added to a solution of the crude compound (107 mg, 0.33 mmol) in N,N-dimethylformamide (5 mL) at room temperature. After 30 minutes, methyl iodide (0.052 mL, 0.83 mmol) was added, followed by stirring at the same temperature for one hour. Water was added under ice-cooling, followed by extracting with ether. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (25% ethyl acetate/hexane), to obtain the title compound (65 mg) as brown crystals.

reactant | Hydrazine monohydrate | 5 mL | O.NN
reactant | ethyl 7-amino-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidin-6-carboxylate | 2.30 mmol, 809 mg | NC1=C(C(=NC=2N1N=C(C2C2=C(C=C(C=C2C)C)C)C)C)C(=O)OCC | C20H24N4O2
reactant | hydrogen chloride | Cl | ClH
reactant | sodium nitrite | 2.53 mmol, 177 mg | N(=O)[O-].[Na+]
reactant | Sodium hydride | 0.66 mmol, 27 mg | [H-].[Na+]
reactant | methyl iodide | 0.83 mmol, 0.052 mL | CI | CH3I
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
product | 6-Mesityl-1,3,4,7-tetramethyl-2,3-dihydro-1H-pyrazolo[5,1-b]purin-2-one | 65 mg | C1(=C(C(=CC(=C1)C)C)C=1C(=NN2C1N=C(C=1N(C(N(C21)C)=O)C)C)C)C | C20H23N5O
